US08871756B2
N-[2-(3-Aminooxetan-3-yl)ethyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine
The title compound was prepared in analogy to Example 2-1 in Scheme 4 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 3-(aminoethyl)-N-benzyloxetan-3-amine. MS obsd. (ESI+) [(M+H)+] 453, 1H NMR (400 MHz, DMSO-d6) δ ppm 7.95-7.89 (t, 1 H), 7.89-7.87 (t, 1 H), 7.64-7.60 (m, 2 H), 7.49-7.45 (m, 1 H), 7.31 (d, J=8.4 Hz, 1 H), 7.24-7.21 (m, 1 H), 6.87 (t, J=10.4 Hz, 1 H), 6.05 (s, 1 H), 5.08 (s, 2 H), 4.39 (m, 6 H), 3.63 (t, J=9.2 Hz, 2 H), 3.41-3.36 (m, 2 H), 2.41 (s, 2 H), 2.35 (s, 3 H), 2.08 (t, J=14.4 Hz, 2 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 3-(aminoethyl)-N-benzyloxetan-3-amine | NCCC1(COC1)NCC1=CC=CC=C1 | C12H18N2O
product | N-[2-(3-Aminooxetan-3-yl)ethyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | NC1(COC1)CCNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C24H28N4O3S
